US06541583B2
The general procedure of Example A is followed. 8-Methyl-5, 10-dihydroindeno[1,2-b]indole reacts with n-butyllithium and the product then reacts with trimethylchlorosilane to form 5-trimethylsilyl-8-methyl-5, 10-dihydroindeno[1,2-b]indole. The later reacts with n-butyllithium to form a lithium salt, which reacts with zirconium tetrachloride to give Catalyst IV.

reactant | 8-Methyl-5, 10-dihydroindeno[1,2-b]indole | CC1=CC=2C3=C(NC2C=C1)C1=CC=CC=C1C3 | C16H13N
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
product | 5-trimethylsilyl-8-methyl-5, 10-dihydroindeno[1,2-b]indole | C[Si](N1C2=C(C=3C=C(C=CC13)C)CC1=CC=CC=C12)(C)C | C19H21NSi
